US05612338
To a solution of 3.0 g (16.3 mmol) of methyl (1,3-dimethyl-4-hydroxypyrazol-5-yl)acetate in 80 ml of dimethyl formamide are added 6.9 g (50.0 mmol) of potassium carbonate and 2.7 g (18.0 mmol) of 4,6-dichloropyrimidine. After stirring for 3 hours at room temperature, 2.2 g (20.0 mmol) of 2-fluorophenol are added and stirring is continued for 3 hours at 80°-85° C. Then 300 ml of ice-water are added, followed by extraction with 400 ml of diethyl ether. The organic phase is washed with 2M sodium hydroxide solution, water and sodium chloride solution, dried and concentrated under vacuum. The resultant brown oil is chromatographed over silica gel with tetrahydrofuran/n-hexane (1:1) as eluant, giving methyl {1,3-dimethyl-4-[6-(2-fluorophenoxy)pyrimidin-4-yloxy]pyrazol-5-yl}acetate as a yellow resin: MS: 372 (M+, 80%), 312 (100).

reactant | methyl (1,3-dimethyl-4-hydroxypyrazol-5-yl)acetate | 16.3 mmol, 3.0 g | CN1N=C(C(=C1CC(=O)OC)O)C | C8H12N2O3
reactant | potassium carbonate | 50.0 mmol, 6.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4,6-dichloropyrimidine | 18.0 mmol, 2.7 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 2-fluorophenol | 20.0 mmol, 2.2 g | FC1=C(C=CC=C1)O | C6H5FO
solvent | dimethyl formamide | 80 ml | CN(C=O)C | C3H7NO
product | methyl {1,3-dimethyl-4-[6-(2-fluorophenoxy)pyrimidin-4-yloxy]pyrazol-5-yl}acetate | CN1N=C(C(=C1CC(=O)OC)OC1=NC=NC(=C1)OC1=C(C=CC=C1)F)C | C18H17FN4O4
